US05736568
A solution of 5-chloro-2-hydroxybenzaldehyde (25.68 g) in dry DMF (100 ml) was added dropwise to a stirred suspension of sodium hydride (6.84 g of a 60% dispersion in mineral oil) in dry DMF (100 ml) at ambient temperature under nitrogen with stirring. The mixture was heated on a steam bath for 1.5 hours, then cooled to ambient temperature and a solution of N-benzyl-2-chloro-N-methylethylamine in toluene (60 ml) [prepared by dissolving the hydrochloride (48.5 g) in 2M sodium hydroxide solution (50 ml) and extracting with toluene (2×30 ml) with drying] and the resulting mixture was heated on a steam bath for 4 hours. The mixture was cooled to ambient temperature and then poured into ice/water (100 ml). The mixture was extracted with ether and the combined ether extracts were washed with 2M sodium hydroxide solution until the washes were colourless. The ether extracts were then washed with 2M hydrochloric acid. The acidic extracts were basified with concentrated sodium hydroxide solution and extracted with dichloromethane to give an oil. A portion of the oil was dissolved in ether and treated with ethereal hydrogen chloride. The solid which precipitated was collected by filtration and recrystallised from propan-2-ol to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-chlorobenzaldehyde, m.p. 154°-155° C.

reactant | 5-chloro-2-hydroxybenzaldehyde | 25.68 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | sodium hydride | [H-].[Na+]
reactant | N-benzyl-2-chloro-N-methylethylamine | C(C1=CC=CC=C1)N(C)CCCl | C10H14ClN
reactant | hydrochloride | 48.5 g | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 2M, 50 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-chlorobenzaldehyde | C(C1=CC=CC=C1)N(C)CCOC1=C(C=O)C=C(C=C1)Cl | C17H18ClNO2
